US05654472
Synthesis of 1,3-dipropionyloxyacetone
Under an atmosphere of argon, 45 g of 1,3-dihydroxyacetone dimer and 100 mg of 4-(N,N-dimethylamino)pyridine were dissolved in 120 ml of pyridine. To the resulting solution, 150 ml of propionic anhydride was added dropwise at room temperature over 1 hour. After the resulting liquid was stirred at room temperature for 30 minutes, thereto was added 50 ml of methanol and the resulting liquid was further stirred at room temperature for 30 minutes. To the reaction mixture was added 1 l of ethyl acetate and the organic layer was separated. The organic layer was washed with 2N HCl and further washed with saturated aqueous solution with sodium hydrogencarbonate and saturated aqueous solution with sodium chloride, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was subjected to a recrystallization from ether/n-hexane to give 74 g of the desired compound.

reactant | 1,3-dihydroxyacetone dimer | 45 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | propionic anhydride | 150 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | methanol | 50 ml | CO | CH4O
reactant | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
catalyst | 4-(N,N-dimethylamino)pyridine | 100 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-dipropionyloxyacetone | 74 g | C(CC)(=O)OCC(=O)COC(CC)=O | C9H14O5
